US20010041803A1
Acetic anhydride was added to a stirred solution of 10-Deacetyl Baccatin III (800 mg, mmol) and pyridine and stirring was continued for 10 minutes. A solution of copper sulphate was added and the mixture was extracted with DCM (3×80 ml). The organic layer was washed with brine, dried MgSO4 anhydrous and concentrated to dryness. The residue was purified by flash chromatography (DCM/EtOAc, 7:2). Baccatin III was obtained in 80% (mg, mmol). 1H-NMR(CDCl3) δ 8.12 (t, J=7.05 Hz, ortho-H), 7.64 (m, 1H, para-H), 7.56 (m, 2H, meta-H), 5.66 (s, H-10), 5.60 (d, J=7.27 Hz, H-2), 5.36 (br d, 1.99 Hz), 4.96 (m, H-7), 4.92 (m, H-7), 4.56 (d, J=4.84 Hz C20-Hα), 4.56 (m, C20-Hβ), 3.5 (d, J=7.0 Hz, H-3), 2.56 (ddd, J=14.0, 9.6, 2.2 Hz, 1H, H-6), 2.3 (m, 1H, H-14), 2.27 (s, 3H, C-4-COCH3), 1.85 (ddd, J=14.4, 10.01, 2.3 Hz 1H, H-6), 2.08 (s, 3H, C-18), 1.9 (s, 3H, C-10-OCH3), 1.8 (s, 3H, H-19), 1.08 (s, 6H, H-16, H-17).

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 10-Deacetyl Baccatin III | 800 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)O | C29H36O10
catalyst | copper sulphate | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Baccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
